US06503900B2
(3R)-3-methyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione (12.7 mmol) was allowed to react with 60 mL 1M BH3/THF to give (3R)-3-methyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine as a white foam/clear oil (8.6 mmol).

reactant | (3R)-3-methyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 12.7 mmol | C[C@@H]1C(NC2=C(C(N1)=O)C=CC=C2)=O | C10H10N2O2
solvent | BH3/THF | 1M, 60 mL | B.C1CCOC1
product | (3R)-3-methyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine | 8.6 mmol | C[C@@H]1CNC2=C(CN1)C=CC=C2 | C10H14N2
